US05142057
In an autoclave made of a metal were placed 12.7 g of ortho-chlorotoluene, 3 g of meta-isopropoxyaniline, 17.7 mg of palladium chloride, 426 mg of 1,4-bisdiphenylphosphinobutane and 23 g of sodium carbonate. The air in the autoclave was replaced with carbon monoxide introduced thereinto in several times, after which carbon monoxide was further introduced to adjust its pressure therein to 30 kg/cm2. The internal temperature was adjusted to 200° C. on a salt bath and the reaction was carried out thereon with stirring for 5 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and washed with water. Subsequently, the organic layer was separated, concentrated, and then recrystallized from ethyl acetate-hexane to obtain 2.6 g of 3'-isopropoxy-2-toluanilide.

reactant | ortho-chlorotoluene | 12.7 g | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | meta-isopropoxyaniline | 3 g | C(C)(C)OC=1C=C(N)C=CC1 | C9H13NO
reactant | 1,4-bisdiphenylphosphinobutane | 426 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | sodium carbonate | 23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 17.7 mg | [Pd](Cl)Cl
product | 3'-isopropoxy-2-toluanilide | 2.6 g | C(C)(C)OC=1C=C(NC(=O)C=2C(=CC=CC2)C)C=CC1 | C17H19NO2
